US06482986B1
2-Chloro-4-(4,4-dimethylcyclohexyl)phenyl Trifluoromethanesulphonate, Compound III.1
8.2 ml of triflic anhydride are added at 5° C. to 9.7 g of 2-chloro-4-(4,4-dimethylcyclohexyl)phenol (compound IX.1) in 60 ml of pyridine, and the reaction mixture is left at 0° C. for 30 mintues and then stirred at room temperature for 12 hours. The reaction mixture is hydrolysed and then extracted with dichloromethane. The organic phase is dried over magnesium sulphate and the solvents are evaporated off under reduced pressure. The residue obtained is taken up in toluene and the solvents are then evaporated off under reduced pressure. The residue obtained is purified by chromatography on a column of silica gel, eluting with a cyclohexane/ethyl acetate mixture varying from 100/0 to 99/1 (v/v). 15 g of the compound are obtained.

reactant | triflic anhydride | 8.2 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2-chloro-4-(4,4-dimethylcyclohexyl)phenol | ClC1=C(C=CC(=C1)C1CCC(CC1)(C)C)O | C14H19ClO
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-4-(4,4-dimethylcyclohexyl)phenyl Trifluoromethanesulphonate | 15 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C1CCC(CC1)(C)C)Cl)(F)F | C15H18ClF3O3S
